US05994368
To a solution of 8-[2,6-dichloro-3-(methoxymethoxy)benzyloxy]-2-methylquinoline (1.57 g) in methanol was dropwise added conc. hydrochloric acid (2.7 ml) at 0° C., and the mixture was stirred for 5 minutes. The solvent was removed, and water was added thereto. The mixture was neutralized with saturated sodium bicarbonate solution, and the resulting participates were collected by filtration to give 8-(2,6-dichloro-3-hydroxybenzyloxy)-2-methylquinoline (734 mg) as a solid.

reactant | 8-[2,6-dichloro-3-(methoxymethoxy)benzyloxy]-2-methylquinoline | 1.57 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1OCOC)Cl | C19H17Cl2NO3
reactant | hydrochloric acid | 2.7 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 8-(2,6-dichloro-3-hydroxybenzyloxy)-2-methylquinoline | 734 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1O)Cl | C17H13Cl2NO2
